US08669252B2
(4R)-3-{[(1R,2R,4R)-4-amino-2-(4-bromophenyl)cyclohexyl]carbonyl}-4-benzyl-1,3-oxazolidin-2-one
To a solution of aqueous triethanolamine (684 mL, 100 mM) was added isopropylamine hydrochloride (102.6 g), pyridoxal phosphate (Vitamin B6; 1.14 g), and the enzyme ATA24 (22.8 g) [ATA-024 is also known as CDX-010 and purchased from Codexis, Inc., Redwood City, Calif., USA.] The mixture was treated with DMSO (228 mL) and heated to 45° C. using a Multimax (Mettler Toledo). The pH was adjusted to 8.6 when 4-benzyl-3-{[(1R,2R)-2-(4-bromophenyl)-4-oxocyclohexyl]carbonyl}-1,3-oxazolidin-2-one (5.7 g, 12.49 mmol) was added as a solution in DMSO (228 mL) by syringe pump over 3 h. An additional amount of the enzyme ATA24 (2 g) was added in 10 mL of buffer and allowed to react for approximately 4 h. An additional amount of the enzyme ATA24 (3 g) was added in 30 mL of buffer and the reaction aged overnight. The reaction was treated with aq. 6 N HCl to lower the pH to 2, and then aged for about 30 min. The reaction was then filtered and the enzyme precipitate was rinsed with 250 mL of 10% DMSO/pH 2.5 H2O (3×). The filtrate was extracted with MTBE (1 L), and the aqueous layer was separated, brought to pH 9.5 and subsequently extracted with MTBE (1 L). The organic layer was separated, washed with pH 11 brine (2×250 mL), dried (MgSO4), filtered and concentrated to afford the title compound.

reactant | triethanolamine | 100 mM, 684 mL | N(CCO)(CCO)CCO | C6H15NO3
reactant | isopropylamine hydrochloride | 102.6 g | Cl.C(C)(C)N
reactant | pyridoxal phosphate | 1.14 g | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | 4-benzyl-3-{[(1R,2R)-2-(4-bromophenyl)-4-oxocyclohexyl]carbonyl}-1,3-oxazolidin-2-one | 12.49 mmol, 5.7 g | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(=O)[C@H]1[C@@H](CC(CC1)=O)C1=CC=C(C=C1)Br | C23H22BrNO4
reactant | HCl | 6 N | Cl | ClH
solvent | DMSO | 228 mL | CS(=O)C | C2H6OS
solvent | DMSO | 228 mL | CS(=O)C | C2H6OS
product | (4R)-3-{[(1R,2R,4R)-4-amino-2-(4-bromophenyl)cyclohexyl]carbonyl}-4-benzyl-1,3-oxazolidin-2-one | N[C@H]1C[C@H]([C@@H](CC1)C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)C1=CC=C(C=C1)Br | C23H25BrN2O3
